US07759337B2
Step A: 6-(4-Fluorophenoxy)phthalazin-1-ol
A 100-mL round-bottom flask under argon was charged with 6-bromophthalazin-1-ol (0.5 g, 2 mmol), 4-fluorophenol (0.4 mL, 4 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.04 mL, 0.2 mmol), cesium carbonate (1 g, 4 mmol), and 1-methyl-2-pyrrolidinone (4 mL), followed by copper (I) chloride (0.1 g, 1 mmol). The reaction mixture was heated at 120° C. for 20 h. The reaction mixture was cooled, diluted with dichloromethane, and washed with water. The pH of the aqueous layer was adjusted to ˜7 with saturated aqueous NaHCO3 and extracted with DCM (2×). The combined organic extracts were dried (MgSO4), filtered, and concentrated in vacuo. Flash chromatography eluting with 1%, 2%, 3%, and 5% MeOH/CHCl3 gave the title compound. MS (ES+): 257.1 (M+H)+.

reactant | 6-bromophthalazin-1-ol | 2 mmol, 0.5 g | BrC=1C=C2C=NN=C(C2=CC1)O | C8H5BrN2O
reactant | 4-fluorophenol | 4 mmol, 0.4 mL | FC1=CC=C(C=C1)O | C6H5FO
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.2 mmol, 0.04 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 4 mmol, 1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper (I) chloride | 1 mmol, 0.1 g | [Cu]Cl
solvent | 1-methyl-2-pyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
product | 6-(4-Fluorophenoxy)phthalazin-1-ol | FC1=CC=C(OC=2C=C3C=NN=C(C3=CC2)O)C=C1 | C14H9FN2O2
